datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[NH:10]CC(O)COc1ccc(CC(N)=O)cc1.O=C(Cn1ncnn1)[O:21][H:20]>>CC(C)[NH+:10](CC(O)COc1ccc(CC(N)=O)cc1)[H:20].O=C(Cn1ncnn1)[O-:21] 10=20;20,21=21",
"COCC[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>COCC[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"C1=C(c2nc3ccccc3s2)C2CC[N+:21]1([H:20])CC2.Nc1ccc2cc3ccccc3[n:10]c2c1>>C1=C(c2nc3ccccc3s2)C2CC[N:21]1CC2.Nc1ccc2cc3ccccc3[n+:10]([H:20])c2c1 10=20;20,21=21",
"CCCC[N:10]1CCCCC1C(=O)Nc1c(C)cccc1C.C[NH+](C)c1ccc(/C=C/c2cc[n+]([O:21][H:20])cc2)cc1>>CCCC[N+:10]1([H:20])CCCCC1C(=O)Nc1c(C)cccc1C.C[NH+](C)c1ccc(/C=C/c2cc[n+]([O-:21])cc2)cc1 10=20;20,21=21",
"CN[NH:10]C.O=C(C1CSC[NH2+]1)[O:21][H:20]>>CN[NH+:10](C)[H:20].O=C(C1CSC[NH2+]1)[O-:21] 10=20;20,21=21",
"C[N:10]1C[C@H](CO)C[C@H]2c3cccc4[nH]cc(c34)C[C@@H]21.Cc1ccc([N+](=O)[O-])cc1C(=O)[O:21][H:20]>>C[N+:10]1([H:20])C[C@H](CO)C[C@H]2c3cccc4[nH]cc(c34)C[C@@H]21.Cc1ccc([N+](=O)[O-])cc1C(=O)[O-:21] 10=20;20,21=21",
"CC(C)(C)c1cccc(C(C)(C)C)c1C[N+:21](C)(C)[H:20].Nc1cc[n:10]c(-c2cccc(Cl)n2)c1>>CC(C)(C)c1cccc(C(C)(C)C)c1C[N:21](C)C.Nc1cc[n+:10]([H:20])c(-c2cccc(Cl)n2)c1 10=20;20,21=21",
"Brc1cccc[n:10]1.[NH3+]CCc1c[nH]c[n+:21]1[H:20]>>Brc1cccc[n+:10]1[H:20].[NH3+]CCc1c[nH]c[n:21]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[C@@H](C(=O)N[C@@H](Cc1c[nH]cn1)C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"Brc1ccc([O:21][H:20])c(Br)c1.C[N:10]1[C@@H]2CC[C@H]1C[C@@H](O)C2>>Brc1ccc([O-:21])c(Br)c1.C[N+:10]1([H:20])[C@@H]2CC[C@H]1C[C@@H](O)C2 10=20;20,21=21",
"O=C(Cc1ccccc1)C(C[N+:21]1([H:20])CCOCC1)c1ccccc1.c1ccc(C2=NSC(N3CCOCC3)=[N:10]S2)cc1>>O=C(Cc1ccccc1)C(C[N:21]1CCOCC1)c1ccccc1.c1ccc(C2=NSC(N3CCOCC3)=[N+:10]([H:20])S2)cc1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1cc(CCCC[NH2:10])ccn1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1cc(CCCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"Nc1nc[n+:21]([H:20])c2c1ncn2C1CCCCC1.O=C1C=CC([O-:10])=CC=C1[O-]>>Nc1nc[n:21]c2c1ncn2C1CCCCC1.O=C1C=CC([O:10][H:20])=CC=C1[O-] 10=20;20,21=21",
"CCCC[NH+:21](Cc1ccc(C)cc1)[H:20].Nc1ccc(B(O)[O-:10])cc1>>CCCC[NH:21]Cc1ccc(C)cc1.Nc1ccc(B(O)[O:10][H:20])cc1 10=20;20,21=21",
"Clc1ccc([O:21][H:20])cc1.N[N-:10]C(=O)c1ccccn1>>Clc1ccc([O-:21])cc1.N[N:10](C(=O)c1ccccn1)[H:20] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])=C1.ClCC[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)=C1.ClCC[O:10][H:20] 10=20;20,21=21",
"CCOCCn1c(CN2CCC[NH+](CCCCn3cccn3)CC2)[n+:21]([H:20])c2ccccc21.CSc1[nH]c2cc3c(cc2[n:10]1)CCCC3>>CCOCCn1c(CN2CCC[NH+](CCCCn3cccn3)CC2)[n:21]c2ccccc21.CSc1[nH]c2cc3c(cc2[n+:10]1[H:20])CCCC3 10=20;20,21=21",
"CC[NH+](CC)CCNc1cc(Nc2ccc(Cl)cc2)[n+:21]([H:20])c(C)n1.Cc1ccc(C)[n:10]c1>>CC[NH+](CC)CCNc1cc(Nc2ccc(Cl)cc2)[n:21]c(C)n1.Cc1ccc(C)[n+:10]([H:20])c1 10=20;20,21=21",
"CC(=O)Nc1ccc([O-:10])cc1.O=C([O-])CCCCCCCC[NH2+:21][H:20]>>CC(=O)Nc1ccc([O:10][H:20])cc1.O=C([O-])CCCCCCCC[NH2:21] 10=20;20,21=21",
"Cc1cc(Cc2cc([O-:10])ccc2C)c([O-])c([N+](=O)[O-])c1.O=C(C1=C(CO)CCC1)[O:21][H:20]>>Cc1cc(Cc2cc([O:10][H:20])ccc2C)c([O-])c([N+](=O)[O-])c1.O=C(C1=C(CO)CCC1)[O-:21] 10=20;20,21=21",
"CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1.c1cc[n+]([O:21][H:20])cc1>>CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1.c1cc[n+]([O-:21])cc1 10=20;20,21=21",
"CC1[C@H](N)[C@H]1[NH2:10].O=S(=O)([O-])c1c([O:21][H:20])ccc2[nH]ncc12>>CC1[C@H](N)[C@H]1[NH2+:10][H:20].O=S(=O)([O-])c1c([O-:21])ccc2[nH]ncc12 10=20;20,21=21",
"NS(=O)(=O)c1cc2c(cc1Cl)N=C[N-:10]S2(=O)=O.O=C([O-])c1cc(S(=O)(=O)[NH:21][H:20])c(Cl)cc1NCc1ccco1>>NS(=O)(=O)c1cc2c(cc1Cl)N=C[N:10]([H:20])S2(=O)=O.O=C([O-])c1cc(S(=O)(=O)[NH-:21])c(Cl)cc1NCc1ccco1 10=20;20,21=21",
"C1CNCC[NH:10]CCN1.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CNCC[NH+:10]([H:20])CCN1.N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[C@H](C(=O)N1CCC[C@H]1C(=O)[O-])[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[C@H](C(=O)N1CCC[C@H]1C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"C=C[C@H]1C[N:10]2CC[C@@H]1CC2C(=O)[O-].CC(C)c1ccccc1[NH2+:21][H:20]>>C=C[C@H]1C[N+:10]2([H:20])CC[C@@H]1CC2C(=O)[O-].CC(C)c1ccccc1[NH2:21] 10=20;20,21=21",
"C#CC(C)(C)[N:10](C)C(C)C.Oc1ccc(CC[NH2+:21][H:20])cc1O>>C#CC(C)(C)[N+:10](C)(C(C)C)[H:20].Oc1ccc(CC[NH2:21])cc1O 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccncc1>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccncc1)[H:20] 10=20;20,21=21",
"Cc1ccc(C(=O)[O:21][H:20])c(I)c1.Nc1nc2nc[nH]c2c([S-])[n:10]1>>Cc1ccc(C(=O)[O-:21])c(I)c1.Nc1nc2nc[nH]c2c([S-])[n+:10]1[H:20] 10=20;20,21=21",
